### PR TITLE
[Merged by Bors] - chore: golf using `grind` and `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
Trace profiling results (shown if ≥10 ms before or after):
* `Finset.mem_map_equiv`: <10 ms before, 25 ms after
* `Rat.inv_intCast_den_of_pos`: <10 ms before, 17 ms after
* `MeasureTheory.Measure.pi_map_piCongrLeft`: 55 ms before, 48 ms after  🎉
* `MeasureTheory.tendsto_of_forall_isClosed_limsup_real_le'`: 268 ms before, <10 ms after  🎉
* `limsup_finset_sup'`: 64 ms before, 51 ms after  🎉
* `ProbabilityTheory.setLIntegral_condKernel_eq_measure_prod`: 69 ms before, 17 ms after  🎉
* `Metric.exists_lt_mem_ball_of_mem_ball`: 81 ms before, <10 ms after  🎉

This golfing PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Image.lean [hunk 1]
```diff
@@ -72,11 +72,8 @@ theorem mem_map {b : β} : b ∈ s.map f ↔ ∃ a ∈ s, f a = b :=
 -- Higher priority to apply before `mem_map`.
 @[simp 1100]
 theorem mem_map_equiv {f : α ≃ β} {b : β} : b ∈ s.map f.toEmbedding ↔ f.symm b ∈ s := by
-  rw [mem_map]
-  exact
-    ⟨by
-      rintro ⟨a, H, rfl⟩
-      simpa, fun h => ⟨_, h, by simp⟩⟩
+  simp only [mem_map, Equiv.coe_toEmbedding]
```
Comment (vihdzp) [inline Mathlib/Data/Finset/Image.lean:75]: Both of these should probably be tagged with `grind`.

File: Mathlib/Data/Rat/Lemmas.lean [hunk 2]
```diff
@@ -300,10 +300,8 @@ theorem inv_natCast_num_of_pos {a : ℕ} (ha0 : 0 < a) : (a : ℚ)⁻¹.num = 1
   inv_intCast_num_of_pos (mod_cast ha0 : 0 < (a : ℤ))
 
 theorem inv_intCast_den_of_pos {a : ℤ} (ha0 : 0 < a) : ((a : ℚ)⁻¹.den : ℤ) = a := by
-  rw [← ofInt_eq_cast, ofInt, mk_eq_divInt, Rat.inv_divInt, divInt_eq_div, Nat.cast_one]
-  apply den_div_eq_of_coprime ha0
-  rw [Int.natAbs_one]
-  exact Nat.coprime_one_left _
+  simp only [den_inv, num_intCast]
```
Comment (vihdzp) [inline Mathlib/Data/Rat/Lemmas.lean:303]: Same here.

File: Mathlib/Data/Finset/Image.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Data/Finset/Image.lean:75]: I’m very much in favor of adding `grind` annotations, but `Finset.mem_map` is already `grind` annotated, isn’t it?

Also, I’m unable to close the goal using `grind [Equiv.coe_toEmbedding]`, so I don’t think we can drop the `simp` step here.

File: Mathlib/Data/Rat/Lemmas.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/Data/Rat/Lemmas.lean:303]: Note that both of these are in `Init.Data.Rat.Lemmas` (i.e. not Mathlib).

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 3]
```diff
@@ -458,12 +458,8 @@ lemma pi_map_piCongrLeft [hι' : Fintype ι'] (e : ι ≃ ι') {β : ι' → Typ
...
     intro i
     rw [MeasurableEquiv.piCongrLeft_apply_apply e x i]
-  rw [this, pi_pi, Finset.prod_equiv e.symm]
-  · simp only [Finset.mem_univ, implies_true]
-  intro i _
-  simp only [s']
-  congr
-  all_goals rw [e.apply_symm_apply]
+  simp only [pi_pi, this]
+  exact Fintype.prod_equiv _ _ _ (congrFun rfl)
```
Comment (artie2000) [inline Mathlib/MeasureTheory/Constructions/Pi.lean]: `simpa using`?

File: Mathlib/MeasureTheory/Measure/Portmanteau.lean [hunk 4]
```diff
@@ -646,16 +646,8 @@ lemma tendsto_of_forall_isClosed_limsup_real_le' {L : Filter ι} [L.IsCountablyG
...
-  · simp
-  specialize h F hF
-  simp only [Measure.real_def] at h
-  rwa [ENNReal.limsup_toReal_eq (b := 1) (by simp) (.of_forall fun i ↦ prob_le_one),
-    ENNReal.toReal_le_toReal _ (by finiteness)] at h
-  refine ne_top_of_le_ne_top (b := 1) (by simp) ?_
-  refine limsup_le_of_le ?_ (.of_forall fun i ↦ prob_le_one)
-  exact isCoboundedUnder_le_of_le L (x := 0) (by simp)
+  simp only [ProbabilityMeasure.measureReal_eq_coe_coeFn, NNReal.toReal_limsup] at h
+  exact tendsto_of_forall_isClosed_limsup_le h
```
Comment (artie2000) [inline Mathlib/MeasureTheory/Measure/Portmanteau.lean]:
````suggestion
Tendsto μs L (𝓝 μ) :=
  tendsto_of_forall_isClosed_limsup_le (by simpa using h)
````

File: Mathlib/Probability/Kernel/Disintegration/Integral.lean [hunk 5]
```diff
@@ -51,14 +51,8 @@ lemma setLIntegral_condKernel_eq_measure_prod (a : α) {s : Set β} (hs : Measur
...
-  rw [this, Kernel.compProd_apply (hs.prod ht)]
-  classical
-  have : ∀ b, Kernel.condKernel κ (a, b) {c | (b, c) ∈ s ×ˢ t}
-      = s.indicator (fun b ↦ Kernel.condKernel κ (a, b) t) b := by
-    intro b
-    by_cases hb : b ∈ s <;> simp [hb]
-  simp_rw [Set.preimage, this]
-  rw [lintegral_indicator hs]
+  simp only [this]
+  exact (Kernel.compProd_apply_prod hs ht).symm
```
Comment (artie2000) [inline Mathlib/Probability/Kernel/Disintegration/Integral.lean]:
````suggestion
simpa [this] using (Kernel.compProd_apply_prod hs ht).symm
````

File: Mathlib/Probability/Kernel/Disintegration/Integral.lean [hunk 6]
```diff
@@ -149,14 +143,8 @@ lemma setLIntegral_condKernel_eq_measure_prod {s : Set β} (hs : MeasurableSet s
...
-  rw [this, compProd_apply (hs.prod ht)]
-  classical
-  have : ∀ b, ρ.condKernel b (Prod.mk b ⁻¹' s ×ˢ t)
-      = s.indicator (fun b ↦ ρ.condKernel b t) b := by
-    intro b
-    by_cases hb : b ∈ s <;> simp [hb]
-  simp_rw [this]
-  rw [lintegral_indicator hs]
+  simp only [this]
+  exact (compProd_apply_prod hs ht).symm
```
Comment (artie2000) [inline Mathlib/Probability/Kernel/Disintegration/Integral.lean]: simpa

**Review by artie2000 — CHANGES_REQUESTED** [review]

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 3 above)
Comment (euprunin) [reply Mathlib/MeasureTheory/Constructions/Pi.lean]: I wasn't able to get `simpa … using …` to work here. Did you have a specific construction in mind?

File: Mathlib/Probability/Kernel/Disintegration/Integral.lean (hunk 6 above)
Comment (euprunin) [reply Mathlib/Probability/Kernel/Disintegration/Integral.lean]: Thanks! Implemented.

File: Mathlib/Probability/Kernel/Disintegration/Integral.lean (hunk 5 above)
Comment (euprunin) [reply Mathlib/Probability/Kernel/Disintegration/Integral.lean]: Thanks! Implemented.

File: Mathlib/MeasureTheory/Measure/Portmanteau.lean (hunk 4 above)
Comment (euprunin) [reply Mathlib/MeasureTheory/Measure/Portmanteau.lean]: Thanks! Implemented.

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 3 above)
Comment (artie2000) [reply Mathlib/MeasureTheory/Constructions/Pi.lean]: let me try it

Comment (artie2000) [reply Mathlib/MeasureTheory/Constructions/Pi.lean]:
````suggestion
  simpa [this] using Fintype.prod_equiv _ (fun i ↦ (μ (e i)) (s' i)) _ (congrFun rfl)
````

Comment (euprunin) [reply Mathlib/MeasureTheory/Constructions/Pi.lean]: Nice! Thanks a lot! Now implemented.

**Review by artie2000 — APPROVED** [review]

File: Mathlib/Topology/MetricSpace/Pseudo/Defs.lean [hunk 7]
```diff
@@ -374,9 +374,8 @@ theorem ball_zero : ball x 0 = ∅ := by rw [ball_eq_empty]
 contains it.
 
 See also `exists_lt_subset_ball`. -/
-theorem exists_lt_mem_ball_of_mem_ball (h : x ∈ ball y ε) : ∃ ε' < ε, x ∈ ball y ε' := by
-  simp only [mem_ball] at h ⊢
-  exact ⟨(dist x y + ε) / 2, by linarith, by linarith⟩
+theorem exists_lt_mem_ball_of_mem_ball (h : x ∈ ball y ε) : ∃ ε' < ε, x ∈ ball y ε' :=
+  exists_between' h
```
Comment (jcommelin) [inline Mathlib/Topology/MetricSpace/Pseudo/Defs.lean]: This is abusing the defeq of `ball`. Could you turn this into a `simpa [???] using exists_between' h`?

Comment (euprunin) [reply Mathlib/Topology/MetricSpace/Pseudo/Defs.lean]: Thanks for reviewing! Now doing `simpa [mem_ball] using exists_between' h`. Looks good?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
